US07855297B2
To a solution of 5-benzyloxy-N-(4-isopropylphenyl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.35 g) in dimethylformamide were added 2-chloro-N,N-dimethylethylamine hydrochloride (0.12 g) and sodium hydride (0.035 g), and the mixture was stirred for one day. The reaction mixture was partitioned between water and ethyl acetate. The organic layer was washed with saturated brine and dried over magnesium sulfate. The solvent was evaporated, and the obtained residue was reacted and treated in the same manner as in Example 17 to give N-({1-[2-(dimethylamino)ethyl]pyrazol-4-yl}methyl)-5-hydroxy-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.18 g). melting point: 92° C.

reactant | 5-benzyloxy-N-(4-isopropylphenyl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.35 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(CC=1C=NNC1)C1=CC=C(C=C1)C(C)C | C31H33N3O2
reactant | 2-chloro-N,N-dimethylethylamine hydrochloride | 0.12 g | Cl.ClCCN(C)C
reactant | sodium hydride | 0.035 g | [H-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-({1-[2-(dimethylamino)ethyl]pyrazol-4-yl}methyl)-5-hydroxy-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.18 g | CN(CCN1N=CC(=C1)CN(C(=O)C1CCCC2=C(C=CC=C12)O)C1=CC=C(C=C1)C(C)C)C | C28H36N4O2
